US08937150B2
4-cyclopropyl-3,5-difluoroaniline
To a pressure tube was added 4-bromo-3,5-difluoroaniline (1.0 g, 4.8 mmol), cesium carbonate (4.7 g, 14.4 mmol), toluene (10 mL) and water (1 mL). The solution was de-gassed with N2 gas for 30 minutes, followed by the addition of cyclopropyltrifluoro-borate, potassium salt (0.8 g, 5.3 mmol), di(1-adamantyl)-n-butylphosphine hydroiodide (0.07 g, 0.14 mmol) and palladium(II) acetate (0.02 g, 0.096 mmol). De-gassing was continued for 5 minutes, the tube was sealed and heated at 100° C. for 18 hours. The cooled solution was diluted with EtOAc, washed with H2O and brine, dried (Na2SO4), and filtered. The filtrate was treated with 3-mercaptopropyl silica gel for 1 hour. The mixture was filtered and concentrated to give crude product which was purified by flash chromatography (0-30% EtOAc/hexane) to give the title compound (0.67 g, 4.0 mmol, 82%).

reactant | 4-bromo-3,5-difluoroaniline | 4.8 mmol, 1.0 g | BrC1=C(C=C(N)C=C1F)F | C6H4BrF2N
reactant | cesium carbonate | 14.4 mmol, 4.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopropyltrifluoro-borate | C1(CC1)[B-](F)(F)F
reactant | potassium | 5.3 mmol, 0.8 g | [K] | K
catalyst | palladium(II) acetate | 0.096 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | di(1-adamantyl)-n-butylphosphine hydroiodide | 0.14 mmol, 0.07 g | I.C12(CC3CC(CC(C1)C3)C2)P(CCCC)C23CC1CC(CC(C2)C1)C3
solvent | water | 1 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-cyclopropyl-3,5-difluoroaniline | 4.0 mmol, 0.67 g, 82% | C1(CC1)C1=C(C=C(N)C=C1F)F | C9H9F2N
